US07674795B2
The procedure used in Example 6 is followed. In a 211 ml autoclave, dissolve 1.85 g of 4-(5,7-difluoro-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime (Z,E), obtained in the previous stage, in a mixture of 70 ml of ethanol and 70 ml of tetrahydrofuran, add a spatula of Raney activated nickel and then subject to an initial hydrogen pressure of 1 bar and heat the autoclave at 60° for 6 hours. After cooling, the volume of hydrogen absorbed is 342 ml. After filtration of the catalyst, the filtrate is concentrated under reduced pressure and then taken up in a mixture of dichloromethane with a small amount of methanol and dried over magnesium sulphate, and the crude solid obtained is made into a paste with diisopropyl ether. In this way, we obtain 1.32 g of 4-(5,7-difluoro-1H-benzimidazol-2-yl)-9H-fluorene-9(R,S)-amine, in the form of a grey powder, which is used as it is in the following stage, with the following characteristics:

reactant | hydrogen | [H][H] | H2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | 4-(5,7-difluoro-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime | 1.85 g | FC1=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)=NO)C(=C1)F | C20H11F2N3O
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
catalyst | nickel | [Ni] | Ni
product | 4-(5,7-difluoro-1H-benzimidazol-2-yl)-9H-fluorene-9(R,S)-amine | 1.32 g | FC1=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)N)C(=C1)F | C20H13F2N3
